US05319092
To a solution of 813 g (3.34 mole) of 3-t-butyl-5-carboethoxymethylthio-1,2,4-1H-triazole in 2 liters of THF was added 395 g (3.67 mole) of dimethyl carbamoyl chloride and 50 g (0.4 mole) of 4-dimethylaminopyridine. To this solution is slowly added 675 g (6.68 mole) of triethylamine, whereon the reaction exotherms to reflux. The reaction is allowed to react for an additional 1.5 hours whereon the temperature slowly returns to room temperature. One liter of ethyl ether, 2 liters of water, 2 kgs of ice are added and the mixture is acidified with concentrated aqueous hydrochloric acid. The aqueous layer is separated and backwashed with 1 liter of ethyl ether before discarding. The combined aqueous layers are washed with 2 liters of brine, dried over magnesium sulfate, and concentrated under vacuum to afford 1016 g of 1-dimethylcarbamoyl-3-t-butyl-5-carboethoxymethylthio-1,2,4-1H-triazole as a tan solid.

reactant | 3-t-butyl-5-carboethoxymethylthio-1,2,4-1H-triazole | 3.34 mole, 813 g | C(C)(C)(C)C1=NNC(=N1)SCC(=O)OCC | C10H17N3O2S
reactant | dimethyl carbamoyl chloride | 3.67 mole, 395 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | triethylamine | 6.68 mole, 675 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 2 liters | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.4 mole, 50 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 2 liters | O | H2O
solvent | ethyl ether | One liter | C(C)OCC | C4H10O
product | 1-dimethylcarbamoyl-3-t-butyl-5-carboethoxymethylthio-1,2,4-1H-triazole | 1016 g | CN(C(=O)N1N=C(N=C1SCC(=O)OCC)C(C)(C)C)C | C13H22N4O3S
